* source LAB1_PROJECT
R_R1         N01855 N01867  2 TC=0,0 
R_R2         N01867 N01877  3 TC=0,0 
R_R3         N01877 N01886  4 TC=0,0 
R_R4         N01902 N01886  5 TC=0,0 
R_R5         N01909 N01902  3 TC=0,0 
R_R6         N01909 N01877  4 TC=0,0 
R_R7         N01909 N01867  6 TC=0,0 
R_R8         0 N01909  1 TC=0,0 
V_V1         N01855 0 12Vdc
